US07223769B2
To a solution containing 0.3 g of 4-(2-pentynyloxy)-6-(1,2-dimethyl-2-propenyloxy)pyrimidine in 3 ml of tetrahydrofuran was added dropwise 3.66 ml of a 1 mol/l solution of hydrogen chloride in diethyl ether, followed by stirring at room temperature for 9 hours. The reaction mixture was then poured into a saturated aqueous sodium hydrogencarbonate solution, which was extracted three times with t-butyl methyl ether. The combined organic layers were washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium chloride, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.07 g of 4-(2-pentynyloxy)-6-(2-chloro-1,2-dimethylpropyloxy)pyrimidine (the present compound (41)).

reactant | 4-(2-pentynyloxy)-6-(1,2-dimethyl-2-propenyloxy)pyrimidine | 0.3 g | C(C#CCC)OC1=NC=NC(=C1)OC(C(=C)C)C | C14H18N2O2
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-(2-pentynyloxy)-6-(2-chloro-1,2-dimethylpropyloxy)pyrimidine | 0.07 g | C(C#CCC)OC1=NC=NC(=C1)OC(C(C)(C)Cl)C | C14H19ClN2O2
